US06369057B1
(3RS)-3-Methyl-4-N-(3-oxo-1-butyl)-3,4-dihydroquinoxalin-2(1H)-one
3-Methyl-3,4-dihydroquinoxalin-2(1H)-one (0.5 g, 3.1 mmol) together with 0.35 ml (4.3 mmol) of methyl vinyl ketone and a catalytic amount of triethylamine were stirred for 20 hours at room temperature in 20 ml of anhydrous ethanol. Silica gel chromatography with methyl tert.-butyl ether/heptane=2:1 gave 620 mg (87%) of the desired product, melting point 108-109° C. (methyl tert.-butyl ether/heptane).

reactant | 3-Methyl-3,4-dihydroquinoxalin-2(1H)-one | 3.1 mmol, 0.5 g | CC1C(NC2=CC=CC=C2N1)=O | C9H10N2O
reactant | methyl vinyl ketone | 4.3 mmol, 0.35 ml | C(=C)C(=O)C | C4H6O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl tert.-butyl ether heptane | C(C)(C)(C)OC.CCCCCCC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3RS)-3-Methyl-4-N-(3-oxo-1-butyl)-3,4-dihydroquinoxalin-2(1H)-one | 620 mg, 87% | CC1C(NC2=CC=CC=C2N1CCC(C)=O)=O | C13H16N2O2
